US06841183B2
Synthesis of 2,7-dimethoxychroman
A 500-milliliter flask fitted with a dropping funnel was charged with 12.4 g of 3-methoxyphenol, 0.2 g of p-toluenesulfonic acid monohydrate and 100 ml of diethyl ether for dissolution, and the mixture was cooled with ice. To this solution was slowly added dropwise 14.3 g of acrolein dimethyl acetal under room temperature. After the dropwise addition, the solution was stirred for 3 hours while being cooled with ice. The reaction solution was alkalized with the addition of 5 ml of a 5% sodium hydroxide aqueous solution and 30 ml of water. Subsequently, 200 ml of diethyl ether was added thereto for extraction. Thus obtained organic layer was washed with 30 ml of water, the diethyl ether was removed by distillation in vacuo therefrom, and the resulting residue was purified by distillation to obtain 6.7 g of a colorless liquid (yield 32%).

reactant | 3-methoxyphenol | 12.4 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | acrolein dimethyl acetal | 14.3 g | COC(C=C)OC | C5H10O2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,7-dimethoxychroman | 6.7 g, yield 32% | COC1OC2=CC(=CC=C2CC1)OC | C11H14O3
